Name:  ___.               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
Penicillins / Sulfa (Sulfonamide Antibiotics) / Doxycycline
 
Attending: ___
 
Chief Complaint:
weakness, fall
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
HPI:  ___ yo RH man with PMH of HTN, prostate CA was transfered
from OSH for evaluation of ICH.

This am, He tried to get up from bed around 11 am,. As soon as 
he
got up from bed and tried to walk, he fell down. He felt that
both his legs are weak, but left was much more weak than right
side. He felt weakness in LUE as well. He was on the floor and
was crawling around the house. He was awake the entire period ,
alert and knew that he had weakness and heavy feeling on the 
left
side, both upper and lower extremities. at around 12 noon, he
crwaled over, somehoe managed to get hold of his medicines and 
he
took a tablet of aspirin and atenonol. He thinks that weakness
and heavy feeling was same all over this period. It did not
increase or fluctuate and was maximum at the onset. he didnt 
call
___ and thought that it will go away.

When his wife returned from work around 6 pm, she noted that he
is lying in the floor.He was awake , able to answer all
questions. he was taken to OSH for evaluation.

At ___, His blood pressure was very high 190/110,
he was noted be having "sensory deficits on left side and some
weakness on left side" basic lab work was done, WBC 10, Hb 15.4,
Plt 224, Trop less than 0.03, INR 1, CPK 568. CT head showed a
large IPH in the right basal ganglia with intraventricular 
spread
and shift.  

He  denies any vision changes, sensory changes, clumsiness.  He
does endorse a mild headache for the last few hours.

 
Past Medical History:
 HTN,
 prostate CA. 
 thyroid cyst
appendectomy
Multiple orthopedic procedures
prostate surgery

 
Social History:
___
Family History:
Prostate ca in father, CAD in father

 
Physical ___:
O: T: 98.0 BP: 191/120     HR: 80   R 14      O2Sats 100
Gen: WD/WN, comfortable, NAD.
HEENT: Pupils: perrl ___         
Neck: Supple.
Lungs: CTA bilaterally.
Cardiac: RRR. S1/S2.
Abd: Soft, NT, BS+
Extrem: Warm and well-perfused.

Neuro:
Mental status: Awake and alert, cooperative with exam, normal
affect.
Orientation: Oriented to person, place, and date.
Attentive with months of the year backwards
Language: Speech fluent with good comprehension and repetition.
he is able to read all the sentences on the stroke card. he is
able to name all the ___ over the stroke card and describe
the picture.
No dysarthria or paraphasic errors. no apraxia, shows how to
brush teeth. 

Cranial Nerves:
I: Not tested
II: Pupils equally round and reactive to light, 4 to 2
mm bilaterally. Visual fields full but with occasional left 
field
neglect sometimes he is able to tell the ___ in both fields
but sometimes he misses on the objects on the left side.
III, IV, VI: Extraocular movements intact bilaterally without
nystagmus.
V, VII: Facial strength and sensation intact and symmetric.
VIII: Hearing intact to voice.
IX, X: Palatal elevation symmetrical.
XI: Sternocleidomastoid and trapezius normal bilaterally.
XII: Tongue midline without fasciculations.

Motor: Normal bulk and tone bilaterally. No abnormal movements,
tremors. Significant promator drift on left.
 
 Delt Bic Tri  WrE FFl FE IO IP Quad Ham  TA  ___ 
L  4-   ___-  ___   4    ___     5     4   5 
R  5    ___   ___   5    ___     5     5   5 

Sensation: Intact to light touch, pain , vibration and position.
throughout but with significant
left hemibody sensory neglect to double simultaneous 
stimulation.

Reflexes: B T Br Pa Ac
Right     ___  2  2
Left      ___  2  2

Toes up bilaterally

Coordination: intact throughout right but ataxic left on FNF and
Heel shin testing. rapid tapping clumsy on left side as well.

 
Pertinent Results:
___ 11:48PM   ___ PTT-24.8 ___
___ 11:48PM   PLT COUNT-191
___ 11:48PM   WBC-9.0 RBC-5.55 HGB-15.0 HCT-45.3 MCV-82 
MCH-27.0 MCHC-33.1 RDW-13.1
___ 11:48PM   CK-MB-11* MB INDX-2.1
___ 11:48PM   cTropnT-<0.01
___ 11:48PM   CK(CPK)-512*
___ 11:48PM   GLUCOSE-122* UREA N-15 CREAT-0.9 SODIUM-138 
POTASSIUM-4.0 CHLORIDE-100 TOTAL CO2-24 ANION GAP-18
___ 10:00AM URINE  ___ BACTERIA-OCC YEAST-NONE 
___ 10:00AM URINE  BLOOD-MOD NITRITE-NEG PROTEIN-75 
GLUCOSE-NEG KETONE-15 BILIRUBIN-SM UROBILNGN-NEG PH-6.5 LEUK-SM
___ 10:00AM URINE  bnzodzpn-NEG barbitrt-NEG opiates-POS 
cocaine-NEG amphetmn-NEG mthdone-NEG
___ 10:36AM   CALCIUM-8.9 PHOSPHATE-2.9 MAGNESIUM-1.9
___ 10:36AM   CK-MB-8 cTropnT-<0.01
___ 10:36AM   CK(CPK)-469*
___ 10:36AM   GLUCOSE-134* UREA N-20 CREAT-1.2 SODIUM-139 
POTASSIUM-3.7 CHLORIDE-102 TOTAL CO2-25 ANION GAP-16
___ 06:24PM   CK-MB-8
___ 06:24PM   CK(CPK)-450*

CT head ___
COMPARISON: Outside hospital head CT performed at ___ 
___ at 8:58 
p.m. on ___. 
  
FINDINGS: There is a hyperdense acute 5.3 x 2.3 cm hemorrhage 
centered in the 
region of the right thalamus extending into the caudate. There 
is hemorrhage 
in the the third ventricle (2:15) and occipital horns of both 
lateral 
ventricles and denser appearanc eof the choroid plexux in the 
body of the 
right lateral ventrcile.(2:14). There is diffuse subarachnoid 
hemorrhage, in 
the region of the right sylvian fissure (2:19) and along the 
posterior 
parietal sulci on both sdies, more prominent from prior (2:19).  

The frontal horn of the right lateral ventricle is compressed by 
the mass 
effect from this hemorrhage. There is very minimal shift of 
midline 
structures to left. The size and configuration of the ventricles 
is stable 
compared to the earlier examination, with slight prominence of 
the temporal 
horns of the lateral ventricles. There are no new foci of 
hemorrhage.  
Gray-white matter differentiation appears well preserved without 
evidence for 
acute infarct. There is expansion of the left frontal bone with 
heterogeneous 
appearance, including lucent areas within- (series 105b/im 
___ The 
differential diagnosis includes fibrous dysplasia, hemangioma, 
etc and further 
evaluation with MR can be helpful to further characterize. A 
samllr etention 
cyst is noted in the left maxillary sinus. 
  
IMPRESSION: 
1. Multicompartmental acute intracranial hemorrhage as above 
with involvement 
of the right thalamus, caudate and ___ and lateral ventricles 
and SAH as 
above. Mass effect on the right lateral ventricle, unchanged. 
Associated 
vascular cause cannot be excluded based on this exam, though 
this is likely to 
be seen with HTN- correlate with hisotry and consider further 
work up for the 
same.  
 
2. Subarachnoid hemorrhage and intraventricular hemorrhage, more 
apparent 
than on the prior examination. 
  
3. Expansion of the left frontal bone with heterogeneous 
appearance, as 
described above- DDx includes fibrous dysplasia, hemangioma less 
likely, etc. 
Further evaluation with MR can be helpful to assess nature and 
extent, if 
there is no contra-indication.  

CXR ___
IMPRESSION: Mild cardiomegaly, but no consolidations.

Elbow x-ray ___
FINDINGS: An IV catheter is seen in the antecubital fossa with a 
kink in the 
IV line. A bony spur seen at the olecranon. Other than mild 
degenerative 
changes, the elbow appears normal. 

CT head ___
IMPRESSION: 
  
1. Parenchymal hemorrhage centered in the right basal ganglia, 
corona radiata 
and thalamus, extending into the ventricles and, to a lesser 
extent, 
subarachnoid spaces. The overall appearance suggests primary 
hypertensive 
hemorrhage. 
  
2. Overall, the total volume of hemorrhage appears similar to 
the comparison 
study, and there is no evidence of interval hemorrhage or 
definite 
development of hydrocephalus. 

CXR ___
  
A single bedside radiograph of the chest excludes the lung 
apices from the 
field of view. Within that constraint the lungs appear 
unchanged, with no 
focal consolidation, pleural effusion or pneumothorax. Cardiac, 
mediastinal 
and hilar contours are also unchanged. 
  
The study and the report were reviewed by the staff radiologist. 


 
Brief Hospital Course:
Mr. ___ is a ___ yo RHM with HTN who presented with acute 
onset weakness and heaviness over left side. Exam at the time of 
admission showed left hemiparesis (arm more than leg), left 
hemisensory neglect more prominent to tactile stimuli than 
visual fields, and ___ upgoing toes. The CT scan shows large R BG 
bleed with IV extension. The most likely etiology is 
hypertension, given his uncontrolled blood
pressure and typical location of bleed. He had been seen by 
neurosurgery who have suggested no acute intervention. He was 
initially admitted to the neurology ICU and started on a 
nicardipine drip for blood pressure control.  A repeat CT head 
showed a stable size of his hemorrhage and he was titrated off 
the nicardipine drip and transferred to the floor.  Initially he 
had some difficulties with blood pressure control and his home 
atenolol was increased to 100 mg bid with good response.  His 
other home medications including his ___ and ___ were 
continued.  His outpatient cardiologist, Dr. ___ was 
contacted regarding his medical regimen and it was determined 
that he has had a number of intolerance/adverse reaction to 
multiple other antihypertensives including ace-inhibitors and 
calcium channel blockers.  Dr. ___ that he was 
planning to start Mr. ___ on Tektura 150 mg daily.  This may 
be considered if his blood pressure requires additional 
treatment.

ID- On ___ the patient spiked a temperature of 102.  He was 
pancultured which have been unrevealing.  Final blood cultures 
are still pending at the time of discharge.  

MSK- Patient did have some occasional lower back pain during the 
hospital course.  A plain film x-ray did not reveal any 
identifiable cause.  It was thought this may have been 
musculoskeletal and has been controlled with tylenol and 
occasional oxycodone for breakthrough pain

 
Medications on Admission:
Tenormin 37.5, 12.5 am and 25 pm
Avapro 300mg daily, 
___ 100mg daily, 
centrum
magnesium 
ca / vit D
ASA 325 on the morning of presentation
 
Discharge Medications:
1. Eplerenone 50 mg Tablet Sig: Two (2) Tablet PO QPM (once a 
day (in the evening)).  
2. Magnesium Oxide 140 mg Capsule Sig: Two (2) Capsule PO DAILY 
(Daily).  
3. Calcium Carbonate 500 mg Tablet, Chewable Sig: One (1) 
Tablet, Chewable PO Q 12H (Every 12 Hours).  
4. Cholecalciferol (Vitamin D3) 400 unit Tablet Sig: One (1) 
Tablet PO DAILY (Daily).  
5. Losartan 50 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily).  
6. Oxycodone 5 mg Capsule Sig: One (1) Capsule PO Q4H (every 4 
hours) as needed for pain.  
7. Atenolol 50 mg Tablet Sig: Two (2) Tablet PO BID (2 times a 
day).  
8. Acetaminophen 325 mg Tablet Sig: ___ Tablets PO Q6H (every 6 
hours) as needed for pain/fever.  
9. Heparin (Porcine) 5,000 unit/mL Solution Sig: One (1)  
Injection TID (3 times a day).  

 
Discharge Disposition:
Extended Care
 
Facility:
___ 
___
 
Discharge Diagnosis:
Right basal ganglia hemorrhage

 
Discharge Condition:
MS; A&Ox3, speech fluent.  Naming, repetition, and comprehension 
intact.
CN; Mild L neglect on visual fields.  EOMI, L facial droop
Motor; ___ strength LUE, LLE limited by back pain but appears at 
least ___.  ___ on RUE, RLE
Sensory; extinction to DSS on left

 
Discharge Instructions:
You were admitted after an episode of weakness.  You were found 
to have a large bleed in a part of your brain called the basal 
ganglia which was likely caused by high blood pressure.  Your 
bleed has been stable on repeat imaging studies and you will be 
transferred to a rehabilitation facility for further care.
 
Followup Instructions:
___